US07777038B2
Sodium hydride (60% in oil) (1.0 g) was added under ice cooling to a tetrahydrofuran (THF) solution (140 ml) of 13.59 g of diethyl 2-(8-methoxy-1-methyl-2-oxo-1,2-dihydroquinolin-5-ylmethyl)malonate, and stirring was carried out until the generation of hydrogen stopped. N-chlorosuccinimide (5.6 g) was added, followed by stirring for 1 hour. The reaction mixture was added to cold hydrochloric acid, and extraction with dichloromethane was performed. After drying over anhydrous sodium sulfate, the dry product was concentrated under reduced pressure, diisopropyl ether was added to the residue, and the precipitated solid was collected by filtration and dried to thereby obtain 12.77 g (yield: 86%) of diethyl 2-chloro-2-(8-methoxy-1-methyl-2-oxo-1,2-dihydroquinolin-5-ylmethyl)malonate as a light yellow powder.

reactant | Sodium hydride | 1.0 g | [H-].[Na+]
reactant | diethyl 2-(8-methoxy-1-methyl-2-oxo-1,2-dihydroquinolin-5-ylmethyl)malonate | 13.59 g | COC=1C=CC(=C2C=CC(N(C12)C)=O)CC(C(=O)OCC)C(=O)OCC | C19H23NO6
reactant | hydrogen | [H][H] | H2
reactant | N-chlorosuccinimide | 5.6 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | hydrochloric acid | Cl | ClH
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | tetrahydrofuran | 140 ml | O1CCCC1 | C4H8O
product | diethyl 2-chloro-2-(8-methoxy-1-methyl-2-oxo-1,2-dihydroquinolin-5-ylmethyl)malonate | 12.77 g, yield: 86% | ClC(C(=O)OCC)(C(=O)OCC)CC1=C2C=CC(N(C2=C(C=C1)OC)C)=O | C19H22ClNO6
